US08211892B2
4-{5-[4-(2-(Methanesulphonyl)ethyl)piperazin-1-yl]pyridin-2-yl}-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester (0.38 g, 0.76 mmol) is placed in 5 ml of dioxane and then 4N HCl in dioxane (2.84 ml, 11.36 mmol) is added. The reaction medium is stirred at ambient temperature for 18 h. 4N HCl in dioxane (2.84 ml, 11.36 mmol) is again added and the reaction medium is stirred at ambient temperature for an additional 18 h. After concentrating to dryness, the reaction medium is diluted with 50 ml of 1N HCl in water and extracted with 100 ml of diethyl ether. The organic phase is again washed with 50 ml of 1N HCl in water. The aqueous phases are combined, basified with K2CO3 powder up to a pH of 10 and extracted 3 times with 50 ml of dichloromethane. The resulting organic phases are combined, washed with a saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated to dryness. 0.3 g of 1-{5-[4-(2-(methanesulphonyl)ethyl)piperazin-1-yl]pyridin-2-yl}-1,2,3,4-tetrahydroquinoxaline is obtained.

reactant | 4-{5-[4-(2-(Methanesulphonyl)ethyl)piperazin-1-yl]pyridin-2-yl}-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 0.76 mmol, 0.38 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)N1CCN(CC1)CCS(=O)(=O)C | C25H35N5O4S
reactant | HCl | 4N | Cl | ClH
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 11.36 mmol, 2.84 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 11.36 mmol, 2.84 ml | O1CCOCC1 | C4H8O2
product | 1-{5-[4-(2-(methanesulphonyl)ethyl)piperazin-1-yl]pyridin-2-yl}-1,2,3,4-tetrahydroquinoxaline | 0.3 g | CS(=O)(=O)CCN1CCN(CC1)C=1C=CC(=NC1)N1CCNC2=CC=CC=C12 | C20H27N5O2S
